US07022730B2
The compound Bis(4-chloroindol-3-yl)-(1,1′-biphenyl-4-yl)methane was prepared following general procedure A, starting from 4-chloro indole and 4-biphenyl carboxaldehyde. LC: Tr 2.79 min, MS: 467 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 4-biphenyl carboxaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
product | Bis(4-chloroindol-3-yl)-(1,1′-biphenyl-4-yl)methane | ClC1=C2C(=CNC2=CC=C1)C(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CNC2=CC=CC(=C12)Cl | C29H20Cl2N2
